US04234744
From the reaction of 11.69 grams of 2-bromopropionic acid methyl ester with 8.52 grams of potassium cyanate and 7.85 grams of methanol under the conditions described in Example 1 there were isolated 6.66 grams (59%) of 2-methoxycarbonylaminopropionic acid methyl ester with a boiling point of 65°-67° C./0.0013 mbar.

reactant | 2-bromopropionic acid methyl ester | 11.69 grams | COC(C(C)Br)=O | C4H7BrO2
reactant | potassium cyanate | 8.52 grams | [O-]C#N.[K+]
reactant | methanol | 7.85 grams | CO | CH4O
product | 2-methoxycarbonylaminopropionic acid methyl ester | 6.66 grams, 59% | COC(C(C)NC(=O)OC)=O | C6H11NO4
